US07247626B2
To a suspension of 1-(3-chlorophenyl)-2-(4-pyrimidinyl)ethenol (9.0 g, 38.7 mmol) in methanol (100 mL) was added hydroxylamine hydrochloride (11.5 g, 165 mmol) and sodium hydroxide (60 mL, 2.8 M in water, 166 mmol). The reaction mixture was refluxed 4 hours. After cooling, the excess methanol was removed in vacuo. Ice water (˜300 mL) was added to the resultant mixture and the ice was allowed to melt. The aqueous mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, then dried over magnesium sulfate. Filtration and concentration followed by flash chromatography (3:1 to 2:1 hexanes:ethyl acetate) provided 1-(3-chlorophenyl)-2-(4-pyrimidinyl)ethanone oxime (6.5 g, 68%) as a white solid. Rf 0.14 (3:1 hexanes:ethyl acetate): 1H NMR (CDCl3) δ 9.50 (br, 1H), 9.18 (s, 1H), 8.61 (d, 1H), 7.78 (s, 1H), 7.58 (d, 1H), 7.38–7.25 (m, 3H), 4.38 (s, 2H); MS m/z 248 (M+1).

reactant | 1-(3-chlorophenyl)-2-(4-pyrimidinyl)ethenol | 38.7 mmol, 9.0 g | ClC=1C=C(C=CC1)C(=CC1=NC=NC=C1)O | C12H9ClN2O
reactant | hydroxylamine hydrochloride | 165 mmol, 11.5 g | Cl.NO
reactant | sodium hydroxide | 166 mmol, 2.8 M, 60 mL | [OH-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
product | 1-(3-chlorophenyl)-2-(4-pyrimidinyl)ethanone oxime | 6.5 g, 68% | ClC=1C=C(C=CC1)C(CC1=NC=NC=C1)=NO | C12H10ClN3O
